US06894061B2
N-[1-(2′,5′,5-Trifluoro-1,1′-biphenyl-2-yl)ethyl]-3-methoxybenzenesulfonamide
The title compound was prepared from 3-methoxybenzenesulfonyl chloride (153 mg, 0.74 mmol), 1-(-2′,5′,5-trifluoro-1,1′-biphenyl-2-yl)ethylamine (177 mg, 0.70 mmol), and triethylamine (147 uL, 1.1 mmol) according to the procedure and in the same manner as described in Example 105, step c. The product was purified by preparative liquid chromatography on a Biotage® 40 Mi column of prepacked silica gel (90 g), eluting with a gradient of 30%-50% methyl tert-butyl ether in hexane (35 min), to afford the desired compound (295 mg, 100%) as a white solid;

reactant | 3-methoxybenzenesulfonyl chloride | 0.74 mmol, 153 mg | COC=1C=C(C=CC1)S(=O)(=O)Cl | C7H7ClO3S
reactant | 1-(-2′,5′,5-trifluoro-1,1′-biphenyl-2-yl)ethylamine | 0.70 mmol, 177 mg | FC1=C(C=C(C=C1)F)C1=C(C=CC(=C1)F)C(C)N | C14H12F3N
reactant | triethylamine | 1.1 mmol, 147 uL | C(C)N(CC)CC | C6H15N
product | N-[1-(2′,5′,5-Trifluoro-1,1′-biphenyl-2-yl)ethyl]-3-methoxybenzenesulfonamide | 295 mg, 100% | FC1=C(C=C(C=C1)F)C1=C(C=CC(=C1)F)C(C)NS(=O)(=O)C1=CC(=CC=C1)OC | C21H18F3NO3S
